datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][NH+:10](C(C)C([H])C([H])[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH][H].[Cl-]>>[Cl-].[H][NH:10]C(C)C([H])C([H])[O][C:20]([NH][H])=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[O-:21][C:20]1(OC)C([H])C(C)C([H])C([H])[O+:10]1([Na])>>[O:10]([Na])C([H])C([H])C(C)C([H])[C:20](OC)=[O:21] 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][H])[O][CH](C)C([H])[CH](C)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH](C)[CH]([H])C(C)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[OH:21][C:20]1(OCC)C([H])=C(C)C(C)C(CCC)[OH+:10]1>>[OH:10]C(CCC)C(C)/C(C)=C([H])\[C:20](OCC)=[OH+:21] 21=20;20,10=10"
"C[O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH]([H])C(C)[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([O:21]C)[S][CH](C7=CC=CC=C7)C([H])[CH](C)[O]1 10=20;20,21=21"
"[H][O:10]C(CC)C([H])C(CC)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])C(CC)[NH]1)[C:20]1([NH:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"[O:10]([Na])C(CCC)C([H])/C(C)=C([H])\[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C([H])=C(C)C([H])C(CCC)[O+:10]1([Na]) 10=20;20,21=21"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CC)[H])[H])[O-:10])[H]>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CC)[H])[H])[H] 10=20;20,21=21"
"[H][O+:10](C([H])C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C([H])C(C)C(C8=CC=CC=C8)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"CCCCCCN([C:20](=[O:10])OC)C1=CC=CC=C1.[O-:21]C1=CC=CC=C1>>CCCCCCN([C:20]([O-:10])(OC)[O:21]C1=CC=CC=C1)C1=CC=CC=C1 21=20;20,10=10"
"[O-:21][C:20]1(OCC)C(O)C(O)C(C)C(C)[O:10]1>>[O-:10]C(C)C(C)C(O)C(O)[C:20](OCC)=[O:21] 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C)C1=CC=CC=C1)CC.[O-:21][H]>>C1=CC=CC=C1C1C(C(O[C:20](N1C)([O-:10])[O:21][H])C1=CC=CC=C1)CC 21=20;20,10=10"
"[H][O:10]C([H])C([H])[S][C:20]([S]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])[S]1)[C:20]1([O:21][H])[S]C7=CC=CC=C7 10=20;20,21=21"
"[H][NH:10]C(C9=CC=CC=C9)C([H])[NH][C:20]([NH][H])=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C([H])[NH]1)[C:20]1([NH:21]CC)[NH][H] 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C7=CC=CC=C7)C(C)[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"CC1C(O[C:20](N1C)([O-:10])[Cl:21])CCCCCC>>CC1C(O[C:20](=[O:10])N1C)CCCCCC.[Cl-:21] 10=20;20,21=21"
"[H]N([C:20]1(OC(C(C([O:21]1)C)C)CC)[O-:10])CCCCCC>>[H]N([C:20](=[O:10])OC(C(C([O-:21])C)C)CC)CCCCCC 10=20;20,21=21"
"[NH:10]([H])C(CC)C(C)C(O)C(O)[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C(O)C(O)C(C)C(CC)[NH+:10]1([H]) 10=20;20,21=21"
"CN([C:20]1(OC(C([O:21]1)[H])C1=CC=CC=C1)[O-:10])[H]>>CN([C:20](=[O:10])OC(C([O-:21])[H])C1=CC=CC=C1)[H] 10=20;20,21=21"
"CCC1C(C(O[C:20](N1[H])([O-:10])[O:21][H])C)C>>CCC1C(C(O[C:20](=[O:10])N1[H])C)C.[O-:21][H] 10=20;20,21=21"
"[H][NH+:10](C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]CC)[NH]CC.[Cl-]>>[Cl-].[H][NH:10]C([H])C(C8=CC=CC=C8)[O][C:20]([NH]CC)=[NH+:21]CC 21=20;20,10=10"
"CC1C(C(O[C:20](=[O:10])N1[H])[H])C.[O-:21]C>>CC1C(C(O[C:20](N1[H])([O-:10])[O:21]C)[H])C 21=20;20,10=10"
"CCCCCCC1C(O[C:20](=[O:10])N1CC)C.[O-:21]C1=CC=CC=C1>>CCCCCCC1C(O[C:20](N1CC)([O-:10])[O:21]C1=CC=CC=C1)C 21=20;20,10=10"
"[H][O+:10](C(CC)C(C)C(C)[NH]1)[C:20]1([NH:21]CC)[O]CC.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)C(C)[NH][C:20]([O]CC)=[NH+:21]CC 21=20;20,10=10"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)[H])CCCCCC)C1=CC=CC=C1>>[H]N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)[H])CCCCCC)[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"[H]N([C:20]([O-:10])(OC1=CC=CC=C1)[Cl:21])CC>>[H]N([C:20](=[O:10])OC1=CC=CC=C1)CC.[Cl-:21] 10=20;20,21=21"
"[H][NH+:10](C(C9=CC=CC=C9)C(CC)[O]1)[C:20]1([NH:21]CC)[NH]CC.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(CC)[O][C:20]([NH]CC)=[NH+:21]CC 21=20;20,10=10"
"[OH:21][C:20]1(OC)C(C)C([H])C(C)C([H])[OH+:10]1>>[OH:10]C([H])C(C)C([H])C(C)[C:20](OC)=[OH+:21] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O][H])[S]C.[Cl-]>>[Cl-].CC[O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O][H])[S]C 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[NH]C([H])C(CC)[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21][H])[NH]C([H])C(CC)[O]1 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C([H])[NH]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]CC)[O][CH](C7=CC=CC=C7)C([H])[CH]([H])[NH]1 10=20;20,21=21"
"[H][O+:10](C(CC)C([H])[O]1)[C:20]1([O:21][H])[S]CC.[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])[O][C:20]([S]CC)=[O+:21][H] 21=20;20,10=10"
"CN([C:20]([O-:10])([O:21]N1C(=O)CCC1=O)OCCCCCC)C>>CN([C:20](=[O:10])OCCCCCC)C.C1CC(=O)N(C1=O)[O-:21] 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C(C)C(CC)[O][C:20]([NH]C)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)C(CC)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C 10=20;20,21=21"
"C(C([O-:21])[H])(C(O[C:20](=[O:10])OCC)C1=CC=CC=C1)[H]>>C1(C(O[C:20]([O-:10])([O:21]C1[H])OCC)C1=CC=CC=C1)[H] 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]CC)[O]C(CC)C(CC)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O]C(CC)C(CC)[NH]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
